US05604237
1-(4-Nitrophenyl)-2-(1,2,3,4-tetrahydro-6,7-dimethoxy-2-isoquinolinyl)ethanone hydrobromide
A solution of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline (15.63 g) and 2-bromo-4'-nitroacetophenone (16.47 g) in a mixture of ethanol (150 ml) and methylene chloride (150 ml) was heated at 60° for 24 hours. After cooling to room temperature yellow crystals appeared. These were collected by filtration and dried in vacuo to give the title compound (9.4 g); MP: 216°. NMR(D6 -DMSO) includes signals at d 3.6(6H,s,2×OCH3); 4.2(2H,s,N--CH2 --Ph); 4.95(2H,s,CO--CH2 --N); 6.6(2H,aromatics isoquinoline); 8(4H,m,aromatics).

reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 15.63 g | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
reactant | 2-bromo-4'-nitroacetophenone | 16.47 g | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-Nitrophenyl)-2-(1,2,3,4-tetrahydro-6,7-dimethoxy-2-isoquinolinyl)ethanone hydrobromide | 9.4 g | Br.[N+](=O)([O-])C1=CC=C(C=C1)C(CN1CC2=CC(=C(C=C2CC1)OC)OC)=O | InChI=1S/C19H20N2O5.BrH/c1-25-18-9-14-7-8-20(11-15(14)10-19(18)26-2)12-17(22)13-3-5-16(6-4-13)21(23)24;/h3-6,9-10H,7-8,11-12H2,1-2H3;1H
